US06469020B2
4-(R)-Benzyl-3-(2-iodomethyl-3-methylbutyryl)oxazolidin-2-one
Iodine (42 g), triphenylphosphine (47 g) and imidazole (12 g) were added to a solution of 4-(R)-benzyl-3-(2-(R)-hydroxymethyl-3-methylbutanoyl)oxazolidin-2-one (45 g) in toluene (400 ml) and the mixture was heated to 80° C. for 1 h, then cooled and washed with water and saturated brine. The solvent was dried (Na2SO4) and evaporated and the residue filtered through silica (200 g) eluting with diethyl ether-hexane 1:1 to give the title compound as a yellow viscous oil (56.4 g).

reactant | Iodine | 42 g | II | I2
reactant | triphenylphosphine | 47 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | imidazole | 12 g | N1C=NC=C1 | C3H4N2
reactant | 4-(R)-benzyl-3-(2-(R)-hydroxymethyl-3-methylbutanoyl)oxazolidin-2-one | 45 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@H](C(C)C)CO)=O | C16H21NO4
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(R)-Benzyl-3-(2-iodomethyl-3-methylbutyryl)oxazolidin-2-one | 56.4 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C(C(C(C)C)CI)=O | C16H20INO3
